US05532240
A mixture of 0.5 g of 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine, 0.5 g of 4-(6-fluoro-1,2-benzisothiazol-3-yl)piperidine hydrochloride, 1.5 g of potassium carbonate and 0.5 g of potassium iodide in 25 ml of dimethylformamide and 25 ml of toluene was stirred at 70° C. for 7 hours and poured into water. The toluene layer was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel to give 0.5 g of 6-acetyl-3-ethyl-2-(2-(4-(6-fluoro-1,2-benzisothiazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine as an oil.

reactant | 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.5 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCCl)CC | C13H18ClNOS
reactant | 4-(6-fluoro-1,2-benzisothiazol-3-yl)piperidine hydrochloride | 0.5 g | Cl.FC1=CC2=C(C(=NS2)C2CCNCC2)C=C1
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-acetyl-3-ethyl-2-(2-(4-(6-fluoro-1,2-benzisothiazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.5 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCN2CCC(CC2)C2=NSC1=C2C=CC(=C1)F)CC | C25H30FN3OS2
